US06051712
In an analogous manner to that described in Example 125 (g), from tert-butyl (3'RS,4'RS)-3'-hydroxy-6-methylsulphanyl-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate by alkylation with 2-chloromethyl-1,4-dimethoxy-naphthalene [J. Amer. Chem. Soc. 64, 2657 (1942)] there was obtained tert-butyl (3'RS,4'RS)-3'-(1,4-dimethoxy-naphthalen-2-ylmethoxy)-6-methylsulphanyl-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate in the form of a colourless solid; MS: 526 (M+H)+.

reactant | tert-butyl (3'RS,4'RS)-3'-hydroxy-6-methylsulphanyl-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | OC1CN(CCC1C=1C=NC(=CC1)SC)C(=O)OC(C)(C)C | C16H24N2O3S
reactant | 2-chloromethyl-1,4-dimethoxy-naphthalene | ClCC1=C(C2=CC=CC=C2C(=C1)OC)OC | C13H13ClO2
product | tert-butyl (3'RS,4'RS)-3'-(1,4-dimethoxy-naphthalen-2-ylmethoxy)-6-methylsulphanyl-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | COC1=C(C=C(C2=CC=CC=C12)OC)COC1CN(CCC1C=1C=NC(=CC1)SC)C(=O)OC(C)(C)C | C29H36N2O5S
